US07465726B2
5-Nitro-1-phenyl-1H-pyridin-2-one
[Ref. Mederski, W. W. K. R., et al. Tetrahedron, 1999, 55, 12757-12770.] To a solution of 2-hydroxy-5-nitropyridine (1.07 g, 7.64 mmol) in dry methylene chloride (50 mL) were added phenylboronic acid (1.86 g, 15.3 mmol), cupric acetate (1.71 g, 9.41 mmol), pyridine (1.2 mL, 15.3 mmol), triethylamine (2.1 mL, 15.3 mmol) and activated 4 Å molecular sieves (2 g). The resulting mixture was stirred in air at rt for 2 d. The mixture was then filtered through celite and washed with methylene chloride. The crude material was purified by silica gel chromatography, eluting with CH2Cl2:EtOAc (85:15) to give the title compound as a white solid. LC-MS (ES, Pos.): 217 [MH+], and 1H NMR (CDCl3, 400 MHz): δ=6.67 (d, J=10.1 Hz, 1H), 7.39-7.42 (m, 2H), 7.53-7.58 (m, 3H), 8.17 (dd, J=10.1, 3.1 Hz, 1H), 8.67 (d, J=3.1 Hz, 1H).

reactant | 2-hydroxy-5-nitropyridine | 7.64 mmol, 1.07 g | OC1=NC=C(C=C1)[N+](=O)[O-] | C5H4N2O3
reactant | phenylboronic acid | 15.3 mmol, 1.86 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | pyridine | 15.3 mmol, 1.2 mL | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 15.3 mmol, 2.1 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Nitro-1-phenyl-1H-pyridin-2-one | [N+](=O)([O-])C=1C=CC(N(C1)C1=CC=CC=C1)=O | C11H8N2O3
